US05344927
To a solution of 0.50 g of N-[(4,5,6,7-tetrahydrobenzimidazol-5-yl)carbonyl]pyrrolidinehydrochloride and 0.39 g of 2-methylindolizine in 5 ml of 1,2-dichloroethane was added dropwise 0.90 g of phosphorus oxychloride. The reaction mixture was refluxed at 85° C. for one night. After cooling to room temperature, 5 ml of water was added thereto. The organic layer was removed, and 10 ml of chloroform was added to the aqueous layer. The solution was adjusted to a pH of 9 with a 20% aqueous solution of sodium hydroxide and then extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography using chloroform/methanol as an eluent, followed by recrystallization from ethanol to obtain 0.21 g of 5-[(2-methylindolizin-3-yl)carbonyl]-4,5,6,7-tetrahydrobenzimidazole.

reactant | N-[(4,5,6,7-tetrahydrobenzimidazol-5-yl)carbonyl]pyrrolidinehydrochloride | 0.50 g | Cl.N1=CNC2=C1CCC(C2)C(=O)N2CCCC2
reactant | 2-methylindolizine | 0.39 g | CC=1C=C2C=CC=CN2C1 | C9H9N
reactant | phosphorus oxychloride | 0.90 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 5 ml | O | H2O
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 5-[(2-methylindolizin-3-yl)carbonyl]-4,5,6,7-tetrahydrobenzimidazole | 0.21 g | CC=1C=C2C=CC=CN2C1C(=O)C1CC2=C(N=CN2)CC1 | C17H17N3O
